US07696216B2
D. Synthesis of 4-(4-isopropyl-phenyl)-1-[2-(2-methoxy-ethyl)-2H-tetrazol-5-ylmethyl]-6-prop-2-ynyloxy-1H-quinazolin-2-thione
The title compound (red foam) is prepared from (4-isopropyl-phenyl)-(2-{[2-(2-methoxy-ethyl)-2H-tetrazol-5-ylmethyl]-amino}-5-prop-2-ynyloxy-phenyl)-methanone and benzoylisothiocyanate as described for the preparation of example 111.

reactant | (4-isopropyl-phenyl)-(2-{[2-(2-methoxy-ethyl)-2H-tetrazol-5-ylmethyl]-amino}-5-prop-2-ynyloxy-phenyl)-methanone | C(C)(C)C1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)OCC#C)NCC=1N=NN(N1)CCOC | C24H27N5O3
reactant | benzoylisothiocyanate | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
product | 4-(4-isopropyl-phenyl)-1-[2-(2-methoxy-ethyl)-2H-tetrazol-5-ylmethyl]-6-prop-2-ynyloxy-1H-quinazolin-2-thione | C(C)(C)C1=CC=C(C=C1)C1=NC(N(C2=CC=C(C=C12)OCC#C)CC=1N=NN(N1)CCOC)=S | C25H26N6O2S
